US07553846B2
A mixture of 2-methylbenzoxazole-4-carboxylic acid (75 mg, 0.42 mmol), (S)-(−)-3-aminoquinuclidine dihydrochloride (84 mg, 0.42 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (161 mg, 0.84 mmol) and 1-hydroxybenzotriazole (114 mg, 0.84 mmol) in DMF (4 mL) was stirred at room temperature for 5 min, then triethylamine (0.22 mL, 1.68 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The mixture was diluted with dichloromethane (20 mL), then washed with a saturated solution of sodium bicarbonate (10 mL). The aqueous layer was further extracted with dichloromethane (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 89:10:1 dichloromethane/methanol/concentrated ammonium hydroxide) to afford (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-methylbenzoxazole-4-carboxamide (39 mg, 33%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.37 (d, J=7.0 Hz, 1H), 8.14 (dd, J=7.5, 1.0 Hz, 1H), 7.60 (dd, J=8.0, 2.0 Hz, 1H), 7.41 (t, J=8.0 Hz, 1H), 4.28-4.23 (m, 1H), 3.47 (ddd, J=11.5, 9.5, 2.0 Hz, 1H), 3.08-2.85 (m, 4H), 2.76 (dd, J=14.0, 4.5 Hz, 1H), 2.70 (s, 3H), 2.13-2.07 (m, 1H), 2.02-1.93 (m, 1H), 1.78-1.70 (m, 2H), 1.60-1.51 (m, 1H); MS (ESI+) m/z 286 (M+H); HPLC>99% (AUC), tR=11.14 min.

reactant | 2-methylbenzoxazole-4-carboxylic acid | 0.42 mmol, 75 mg | CC=1OC=2C(N1)=C(C=CC2)C(=O)O | C9H7NO3
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.42 mmol, 84 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.84 mmol, 161 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.84 mmol, 114 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.68 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-methylbenzoxazole-4-carboxamide | 39 mg, 33% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C | C16H19N3O2
